US07723722B2
[Step 4: Synthesis of 3-[4-(9H-carbazol-9-yl)phenyl]-9-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazole (CPCPA)]
1.8 g (4.5 mmol) of 9-(4-bromophenyl)-10-phenylanthracene, 1.8 g (4.5 mmol) of 3-[4-(9H-carbazol-9-yl)phenyl]-9H-carbazole (CPC), and 1.1 g (10 mmol) of sodium tert-butoxide were put into a 200 mL three-neck flask. The air in the flask was replaced with nitrogen. To the mixture were added 25 mL of toluene and 0.10 mL of tri(tert-butyl)phosphine (a 10 wt % hexane solution). This mixture was stirred to be degassed while the pressure was reduced. After the degassing, 58 mg (0.10 mmol) of bis(dibenzylideneacetone)palladium(0) was added to the mixture. This mixture was refluxed and then cooled to room temperature. Then, to the mixture was added about 50 mL of toluene. The mixture was subjected to suction filtration through Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and alumina. The obtained filtrate was condensed to give a light yellow solid. This solid was recrystallized with toluene/hexane to give 2.6 g of a light yellow powdered solid, which was the object of the synthesis, at a yield of 81%. A synthesis scheme of Step 4 is shown in (f-4) given below.

reactant | 9-(4-bromophenyl)-10-phenylanthracene | 4.5 mmol, 1.8 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 3-[4-(9H-carbazol-9-yl)phenyl]-9H-carbazole | 4.5 mmol, 1.8 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)C=1C=CC=2NC3=CC=CC=C3C2C1 | C30H20N2
reactant | sodium tert-butoxide | 10 mmol, 1.1 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.10 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.10 mmol, 58 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | about 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(9H-carbazol-9-yl)phenyl]-9-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazole | 2.6 g, yield of 81% | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C56H36N2
